US04707488
B: 1-(3-Phenylpropyl)-5-mercaptotetrazole
Methyl N-(3-phenylpropyl)dithiocarbamate (0.044 mol) and sodium azide (0.062 mol) were reacted substantially as described in Example 1C above to obtain 2.0 g (21%) colorless crystals: mp 75°-76° (pet. ether).

reactant | Methyl N-(3-phenylpropyl)dithiocarbamate | 0.044 mol | C1(=CC=CC=C1)CCCNC(SC)=S | C11H15NS2
reactant | sodium azide | 0.062 mol | [N-]=[N+]=[N-].[Na+]
product | 1-(3-Phenylpropyl)-5-mercaptotetrazole | 2.0 g, 21% | C1(=CC=CC=C1)CCCN1N=NN=C1S | C10H12N4S
